US04146721
12.0 grams 3,3-bis-(p-chlorobenzoyl)-propionic acid ethyl ester, 3.9 grams phenylhydrazine and 2.7 grams glacial acetic acid were mixed and the mixture was heated in a nitrogen atmosphere to the boiling temperature under reflux for 6 hours. To the reaction mixture were then added benzene, and the pH was adjusted to 2-3, followed by extraction with water. The benzene was evaporated from the benzene phase and the dry, crystalline residue was recrystallized from a mixture of cyclohexane and petroleum ether boiling in a range from 50°-70° C. 13.0 grams 1-phenyl-3,5-bis-(p-chlorophenyl)-pyrazol-4-acetic acid ethyl ester, melting at 120°-122° C., were obtained, representing a yield of 91%.

reactant | 3,3-bis-(p-chlorobenzoyl)-propionic acid ethyl ester | 12.0 grams | C(C)OC(CC(C(C1=CC=C(C=C1)Cl)=O)C(C1=CC=C(C=C1)Cl)=O)=O | C19H16Cl2O4
reactant | phenylhydrazine | 3.9 grams | C1(=CC=CC=C1)NN | C6H8N2
reactant | acetic acid | 2.7 grams | C(C)(=O)O | C2H4O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-phenyl-3,5-bis-(p-chlorophenyl)-pyrazol-4-acetic acid ethyl ester | 13.0 grams, yield of 91% | C(C)OC(CC=1C(=NN(C1C1=CC=C(C=C1)Cl)C1=CC=CC=C1)C1=CC=C(C=C1)Cl)=O | C25H20Cl2N2O2
